US04760193
6-Bromo-3-methyl-1,1-diethoxy-3,5-hexadiene is prepared under the conditions described earlier for the preparation of 6-bromo-3-methyl-1,1-dimethoxy-3,5-hexadiene. Starting with 5,5-diethoxy-3-methyl-2-pentenal (4.67 g; 25.1 mmol), 6-bromo-3-methyl-1,1-diethoxy-3,5-hexadiene (5.1 g) is obtained in 77.5% yield. The structure of the product obtained is confirmed by the infrared spectrum and the proton nuclear magnetic resonance spectrum.

reactant | 6-bromo-3-methyl-1,1-dimethoxy-3,5-hexadiene | BrC=CC=C(CC(OC)OC)C | C9H15BrO2
reactant | 5,5-diethoxy-3-methyl-2-pentenal | 25.1 mmol, 4.67 g | C(C)OC(CC(=CC=O)C)OCC | C10H18O3
product | 6-bromo-3-methyl-1,1-diethoxy-3,5-hexadiene | 5.1 g | BrC=CC=C(CC(OCC)OCC)C | C11H19BrO2
